US05665696
2-(2-Methyl-2-propenyl)-3,7,7-trimethylbicyclo[4.1.0]heptane-2-carboxaldehyde (mixture of diastereomers)
A 4 neck 2 liter round bottomed flask was charged with 500 ml of DMF and 78.0 g of potassium t-butoxide (0.66 mole). The flask was cooled to 0° C. and 100.0 g of 2-formylcarane at a purity of 75% (0.45 mole) in 75 ml of DMF were added dropwise over 30 minutes at 0°-5° C. The mixture was stirred for 20 minutes at 0°-5° C. Then 60.0 g of methallyl chloride (0.66 mole) in 50 ml of DMF were added dropwise over about 25 minutes between 5°-12° C. The batch was poured with stirring into 2 liters of cold brine and extracted with 3×250 ml of hexane. The hexane extracts were washed with 3×500 ml of water and 500 ml of brine. The hexane was dried with sodium sulfate, filtered, and concentrated in vacuo. In this way 127.8 g of crude product were obtained. The crude product was charged into a 250 ml 3 neck flask and heated under nitrogen at 165°-180° C. for 4.5 hours. The crude aldehyde was distilled to afford 88.4 g of purified product (80% yield). BP 79° C./0.1 mmHg; 1H-NMR (300 MHz), δ 0.6-1.0 (3H, m), 1.04 (3H, s), 1.06 (3H, s), 1.0-1.12 (2H, m), 1.2-1.4 (3H, m), 1.6-1.8 (2H, m), 1.82 (3H, s), 2.44 (2H, m), 4.83 (2H, m), 9.63 (1H, s); 13C-NMR (75 MHz), δ 16.44, 17.68, 20.06, 20.31, 24.66, 27.04, 28.76, 31.24, 33.36, 40.74, 45.73, 49.66, 115.93, 141.89, 204.41; IR (Neat), 2970, 2730, 1725, 1645, 1460, 1380, 895 cm-1 ; MS (m/e), 220 (M+), 205, 191, 177, 165, 147, 135, 121, 107, 93, 81, 69, 55, 41 (Base);

reactant | potassium t-butoxide | 0.66 mole, 78.0 g | CC(C)([O-])C.[K+]
reactant | 2-formylcarane | 100.0 g | C(=O)C1C2C(CCC1C)C2(C)C | C11H18O
reactant | methallyl chloride | 0.66 mole, 60.0 g | C(C(C)=C)Cl | C4H7Cl
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | brine | 2 liters | [Cl-].[Na+].O
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 2-(2-Methyl-2-propenyl)-3,7,7-trimethylbicyclo[4.1.0]heptane-2-carboxaldehyde | 88.4 g, 80% yield | CC(CC1(C2C(C2CCC1C)(C)C)C=O)=C | C15H24O
